US07378409B2
To a solution of tert-butyl (1R,3R,4S)-4-((benzyloxycarbonyl)amino)-3-carbamothioylcyclohexylcarbamate (0.5 g, 0.0012 mol) in dry benzene (20 mL) under nitrogen was added chloroacetone (0.34 g, 0.0036 mol) and the reaction mixture was heated at 75° C. over night. Benzene was removed under vacuum and the crude was extracted with ethyl acetate. The organic layer was washed with brine, concentrated and purified by recrystallisation from ether to give 0.24 g (44%) of tert-butyl (1R,3R,4S)-4-((benzyloxycarbonyl)amino)-3-(4-methylthiazol-2-yl)cyclohexylcarbamate as a white solid. 1H NMR (400 MHz, CDCl3) δ 1.44 (s, 9H), 1.65 (m, 3H), 1.78 (m, 2H), 2.19 (m, 2H), 2.42 (s, 3H), 3.49 (m, 1H), 3.70 (m, 1H), 4.05 (m, 1H), 5.04 (s, 2H), 5.29 (bs, 1H), 6.75 (s, 1H), 7.34 (m, 5H); 13H NMR (400 MHz, CDCl3) δ 16.4, 27.4, 27.8, 32.7, 41.9, 46.5, 49.7, 66.0, 78.5, 112.3, 127.3, 127.4, 127.8, 135.9, 151.8, 154.6, 155.2, 169.2. MS found: (M+H)+=446.

reactant | tert-butyl (1R,3R,4S)-4-((benzyloxycarbonyl)amino)-3-carbamothioylcyclohexylcarbamate | 0.0012 mol, 0.5 g | C(C1=CC=CC=C1)OC(=O)N[C@@H]1[C@@H](C[C@@H](CC1)NC(OC(C)(C)C)=O)C(N)=S | C20H29N3O4S
reactant | chloroacetone | 0.0036 mol, 0.34 g | ClCC(C)=O | C3H5ClO
solvent | benzene | 20 mL | C1=CC=CC=C1 | C6H6
product | tert-butyl (1R,3R,4S)-4-((benzyloxycarbonyl)amino)-3-(4-methylthiazol-2-yl)cyclohexylcarbamate | 0.24 g, 44% | C(C1=CC=CC=C1)OC(=O)N[C@@H]1[C@@H](C[C@@H](CC1)NC(OC(C)(C)C)=O)C=1SC=C(N1)C | C23H31N3O4S
